US05691349
A mixture of 4-iodophenol (6.6 g), 1-iodopropane (5.1 g), anhydrous potassium carbonate (13.8 g) and acetone (100 ml) was stirred at reflux for 6 hours. Two further portions of 1-iodopropane were added after one hour (5.1 g) and two hours (5.1 g). The acetone was removed by evaporation, the residue was treated with water (100 ml) and the mixture extracted with dichloromethane (2×30 ml). The organic extracts were combined, dried (MgSO4) and evaporated. The residue, an oil, was distilled at 150° C. and 0.5 mm pressure (using a Kugelrohr oven) to give 4-n-propoxyiodobenzene as a colourless oil (7.2 g), NMR(CDCl3): 0.9-1.08(3H,t), 1.7-1.9(2H,m), 3.82-3.92(2H,t), 6.62-6.72(2H,d), 7.5-7.6(2H,d); m/z 262 (M).

reactant | 4-iodophenol | 6.6 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | 1-iodopropane | 5.1 g | ICCC | C3H7I
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 4-n-propoxyiodobenzene | 7.2 g | C(CC)OC1=CC=C(C=C1)I | C9H11IO
